US04411925
To a 250 ml. three-necked flask fitted with a stopper, thermometer, drying tube and magnetic stirring bar was added 4.28 g. (0.010 mole) of beta-benzyl-N-benzyloxycarbonyl-L-aspartyl-D-alanine, 75 ml. tetrahydrofuran and 1.53 ml. (0.011 mole) triethylamine. The mixture was cooled to -10° C., 1.05 ml. (0.011 mole) ethyl chloroformate was added, stirred for 20 minutes, cooled to -35° C. and 1.11 g. (0.010 mole) of dicyclopropylcarbinylamine added. The reaction mixture was allowed to warm slowly to room temperature and stirred overnight. The mixture was poured into 150 ml. water, extracted with 250 ml. of ethyl acetate and the organic phase washed with 5% aqueous sodium bicarbonate (2×75 ml.), 3 M hydrochloric acid (2×75 ml.), brine (1×100 ml.) and dried over anhydrous magnesium sulfate. The dried extract was evaporated to dryness in vacuo to provide a colorless solid which was recrystallized from 75 ml. of boiling ethyl acetate to obtain 3.78 g. (72%) of diblocked amide, M.P. 164°-165° C. Thin-layer chromatography (TLC) on silica gel, eluting with 1:1 ethyl acetate/hexane gave a single spot, Rf 0.40 with vanillin spray reagent. An additional 0.65 g. was recovered from the mother liquors.

reactant | beta-benzyl-N-benzyloxycarbonyl-L-aspartyl-D-alanine | 0.010 mole | C(C1=CC=CC=C1)C([C@H](NC(=O)OCC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)O)C(O)=O | C22H24N2O7
reactant | triethylamine | 0.011 mole | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.011 mole | ClC(=O)OCC | C3H5ClO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
